US09212254B2
Tetrahydrofuran (50 mL) and 3,7-dimethyloctyl trichlorosilane (11.27 g, 40.9 mmol) were placed in a 200 mL four-necked flask in a nitrogen atmosphere, and cooled to −20° C. 3,7-dimethyloctyl magnesium bromide (Sigma-Aldrich Co. LLC., 1.0 M, 42.9 ml) was added dropwise, and the mixture was agitated for 1 hour at 10° C. or less. The temperature was raised gradually to room temperature over the course of about 1 hour, and the mixture was left standing overnight. The precipitated salt was filtered out, the tetrahydrofuran was removed by concentration under reduced pressure, and the mixture was distilled under reduced pressure to obtain the target bis(3,7-dimethyloctyl)dichlorosilane (Compound E27) (150-152° C./0.6 Torr, 11.3 g, yield 73%).

reactant | 3,7-dimethyloctyl trichlorosilane | 40.9 mmol, 11.27 g | CC(CC[Si](Cl)(Cl)Cl)CCCC(C)C | C10H21Cl3Si
reactant | 3,7-dimethyloctyl magnesium bromide | 1.0 M, 42.9 ml | CC(CC[Mg]Br)CCCC(C)C
solvent | Tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | bis(3,7-dimethyloctyl)dichlorosilane | 11.3 g, yield 73% | CC(CC[Si](Cl)(Cl)CCC(CCCC(C)C)C)CCCC(C)C | C20H42Cl2Si
